US04226872
By the above procedure, each of cyano[6-(4-fluorophenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate, cyano[6-(4-methylphenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate, cyano[6-(4-methoxyphenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate, cyano[6-(4-chlorophenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate, cyano[6-(methylthiophenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate, and cyano[6-(4-trifluoromethylphenoxy)-2-pyridyl)]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate is prepared by the reaction of the acid chloride of 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid with each of cyano[6-(4-fluorophenoxy)-2-pyridyl]methanol, cyano[6-(4-methylphenoxy)-2-pyridyl]methanol, cyano[6-(4-methoxyphenoxy)-2-pyridyl]methanol, cyano[6-(4-chlorophenoxy)-2-pyridyl]methanol, cyano[6-(4-methylthiophenoxy)-2-pyridyl]methanol and cyano[6-(4-trifluoromethylphenoxy)-2-pyridyl]methanol, respectively.

reactant | cyano[6-(4-fluorophenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC(C1=NC(=CC=C1)OC1=CC=C(C=C1)F)C#N)C(C)C | C25H20ClF4N3O3
reactant | cyano[6-(4-methylphenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC(C1=NC(=CC=C1)OC1=CC=C(C=C1)C)C#N)C(C)C | C26H23ClF3N3O3
reactant | cyano[6-(4-methoxyphenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC(C1=NC(=CC=C1)OC1=CC=C(C=C1)OC)C#N)C(C)C | C26H23ClF3N3O4
reactant | cyano[6-(4-chlorophenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC(C1=NC(=CC=C1)OC1=CC=C(C=C1)Cl)C#N)C(C)C | C25H20Cl2F3N3O3
reactant | cyano[6-(methylthiophenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC(C1=NC(=CC=C1)OC=1SC=CC1C)C#N)C(C)C | C24H21ClF3N3O3S
reactant | 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13ClF3NO2
reactant | cyano[6-(4-fluorophenoxy)-2-pyridyl]methanol | C(#N)C(O)C1=NC(=CC=C1)OC1=CC=C(C=C1)F | C13H9FN2O2
reactant | cyano[6-(4-methylphenoxy)-2-pyridyl]methanol | C(#N)C(O)C1=NC(=CC=C1)OC1=CC=C(C=C1)C | C14H12N2O2
reactant | cyano[6-(4-methoxyphenoxy)-2-pyridyl]methanol | C(#N)C(O)C1=NC(=CC=C1)OC1=CC=C(C=C1)OC | C14H12N2O3
reactant | cyano[6-(4-chlorophenoxy)-2-pyridyl]methanol | C(#N)C(O)C1=NC(=CC=C1)OC1=CC=C(C=C1)Cl | C13H9ClN2O2
reactant | cyano[6-(4-methylthiophenoxy)-2-pyridyl]methanol | C(#N)C(O)C1=NC(=CC=C1)SC1=CC=C(C=C1)C | C14H12N2OS
reactant | cyano[6-(4-trifluoromethylphenoxy)-2-pyridyl]methanol | C(#N)C(O)C1=NC(=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C14H9F3N2O2
product | methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC)C(C)C | C13H15ClF3NO2
